US05389641
19a) 2-cyanophenyl trifluoromethanesulfonate
To a stirred solution of 2-cyanophenol (4.0 g) and diisopropylethylamine (4.8 g) in methylene chloride (40 ml) was added trifluoromethanesulfonic anhydride (9.7 g) dropwise under ice-cooling. The reaction mixture was stirred for 1 hour and washed with aqueous sodium bicarbonate and water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give a pale yellow syrup (7.4 g, 87%).

reactant | 2-cyanophenol | 4.0 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | diisopropylethylamine | 4.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 9.7 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-cyanophenyl trifluoromethanesulfonate | 7.4 g, 87% | FC(S(=O)(=O)OC1=C(C=CC=C1)C#N)(F)F | C8H4F3NO3S
